US06482841B1
B) 2,6-Dimethyl-4-(3-hydroxyphenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester (hydrochloride)
A mixture of 10 g (0.026 mol) of 2,6-Dimethyl-4-(3-hydroxyphenyl) 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester, obtained as indicated in A), and 2.6 g (0.030 mol) of MnO2 in 50 ml of methylisobutylketone, was refluxed with stirring for 14 hours. The remaining solid was eliminated by filtration, and the liquid was concentrated to dryness under reduced pressure. The residue obtained was dissolved in 15 ml of 15% aq. HC1, then, the solution was washed with ethyl acetate (10 ml), the pH was adjusted to 8 with 20% aq. K2CO3. Finally, the solution was extracted with CH2C12 (2×50 ml), the organic extracts were dried over anh Na2SO4, and concentrated to dryness at reduced pressure. The residue appeared as an oil, which crystallised in 2 ml of methanol, and was transformed into the hydrochloride by dissolution in ethanol (10 ml) and addition of HC1 saturated diethyl ether (20 ml). A yellow solid was obtained (mp 95-7° C., MeOH) with a yield of 64%.

reactant | 2,6-Dimethyl-4-(3-hydroxyphenyl) 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0.026 mol, 10 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)O | C21H25NO6
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
catalyst | MnO2 | 0.030 mol, 2.6 g | O=[Mn]=O
product | 2,6-Dimethyl-4-(3-hydroxyphenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 64% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=CC(=CC=C1)O | C21H23NO6
